US04229353
To 30.6 g (0.2 mole) of 1,1-dichloro-4-methyl-1,3-pentadiene in 400 ml methylene chloride were added 0.35 mole of technical perchloroacetic acid containing 1.0 g sodium acetate at a temperature of 10°-20° C. over a period of 20 minutes. After stirring for 15 hours, the reaction mixture was poured into 500 ml of water. The phases were separated and the aqueous phase extracted twice with 150 ml of methylene chloride. The organic phases were combined and washed with 10% aqueous sodium carbonate (2×100 ml) and saturated aqueous sodium chloride (1×100 ml), dried over Na2SO4 and the solvent evaporated. The product was distilled to give 34 g of 1,1-dichloro-3,4-epoxy-4-methyl-1-pentene (82% yield).

reactant | 1,1-dichloro-4-methyl-1,3-pentadiene | 0.2 mole, 30.6 g | ClC(=CC=C(C)C)Cl | C6H8Cl2
reactant | perchloroacetic acid | 0.35 mole, 1.0 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dichloro-3,4-epoxy-4-methyl-1-pentene | 34 g, 82% yield | ClC(=CC1C(C)(C)O1)Cl | C6H8Cl2O
